US08183231B2
Cyclohexylmethyl-{(R)-2-hydroxy-3-[((S)-pyrrolidine-2-carbonyl)-amino]-propyl}-phosphinic acid
Step 4, Method B of Example 1 was substantially repeated in this Example 7 except for employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-L-proline as the starting materials. Subsequent hydrogenation of the resulting benzyl ester in accordance with the procedures of Step 5, Method A of Example 1 and RP-HPLC purification yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 4.32-4.18 (m, 1H), 4.13-3.95 (m, 1H), 3.55-3.20 (m, 4H), 2.52-2.35 (m, 1H), 2.15-1.99 (m, 3H), 1.95 (br. d, 2H), 1.80-1.58 (m, 6H), 1.52 (dd, 2H), 1.40-1.15 (m, 3H), 1.13-0.95 (m, 2H). 31P NMR (CD3OD, 300 MHz): δ 42.01. LCMS m/z: [M+H]+=333.2.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-L-proline | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
product | Cyclohexylmethyl-{(R)-2-hydroxy-3-[((S)-pyrrolidine-2-carbonyl)-amino]-propyl}-phosphinic acid | C1(CCCCC1)CP(O)(=O)C[C@@H](CNC(=O)[C@H]1NCCC1)O | C15H29N2O4P
